US04035422
157 g (0.94 mole) of 2,6-dimethyl-3-nitro phenol is added little by little, while stirring, to a reducing mixture consisting of 950 cm3 of water, 30 cm3 of acetic acid and 158 g of iron, which has first been heated to 70°. When this addition has been completed, the heating is continued for 20 minutes. The reaction mixture is then neutralized with sodium carbonate and the boiling liquid is filtered. After cooling the filtrate, drying yields 80 g of 3-amino-2,6-dimethyl phenol which, after recrystallization in benzene, melts at 104°.

reactant | 2,6-dimethyl-3-nitro phenol | 0.94 mole, 157 g | CC1=C(C(=CC=C1[N+](=O)[O-])C)O | C8H9NO3
reactant | water | 950 cm3 | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | iron | 158 g | [Fe] | Fe
solvent | acetic acid | 30 cm3 | C(C)(=O)O | C2H4O2
product | 3-amino-2,6-dimethyl phenol | 80 g | NC=1C(=C(C(=CC1)C)O)C | C8H11NO
